US09062070B2
Step A: (3S)-tert-butyl 3-(acetylthiomethyl)-4-(2-(3-cyano-4-fluoro-2-methylphenyl)-2-hydroxyethyl)piperazine-1-carboxylate
(3S)-tert-butyl 4-(2-(3-cyano-4-fluoro-2-methylphenyl)-2-hydroxyethyl)-3-(hydroxymethyl)piperazine-1-carboxylate (synthesis described above, 0.090 g, 0.23 mmol) was dissolved in THF (2.3 mL) and cooled to 0° C. Triethylamine (0.038 mL, 0.274 mmol) was added followed by addition of Ms-Cl (0.020 mL, 0.252 mmol), and DMAP (2.79 mg, 0.023 mmol). The ice bath was removed and stirring was continued for 2 hours. The reaction mixture was then concentrated under reduced pressure. The resulting material was re-dissolved in DMSO (2 mL) and treated with potassium thioacetate (0.035 g, 0.306 mmol). The reaction mixture was stirred at room temperature under nitrogen overnight and then heated at 45° C. for 2 h. The mixture was diluted with ethyl acetate and washed with water (3 times) and brine, dried (Na2SO4), filtered and concentrated. The crude product was purified by column chromatography (100% hexane to 80% EtOAc/Hexane) to give the desired product LC/MS: M+1=452.3.

reactant | (3S)-tert-butyl 4-(2-(3-cyano-4-fluoro-2-methylphenyl)-2-hydroxyethyl)-3-(hydroxymethyl)piperazine-1-carboxylate | 0.23 mmol, 0.090 g | C(#N)C=1C(=C(C=CC1F)C(CN1[C@@H](CN(CC1)C(=O)OC(C)(C)C)CO)O)C | C20H28FN3O4
reactant | Triethylamine | 0.274 mmol, 0.038 mL | C(C)N(CC)CC | C6H15N
reactant | Ms-Cl | 0.252 mmol, 0.020 mL | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | potassium thioacetate | 0.306 mmol, 0.035 g | C(C)(=S)[O-].[K+]
solvent | THF | 2.3 mL | C1CCOC1 | C4H8O
catalyst | DMAP | 0.023 mmol, 2.79 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3S)-tert-butyl 3-(acetylthiomethyl)-4-(2-(3-cyano-4-fluoro-2-methylphenyl)-2-hydroxyethyl)piperazine-1-carboxylate | C(C)(=O)SC[C@@H]1CN(CCN1CC(O)C1=C(C(=C(C=C1)F)C#N)C)C(=O)OC(C)(C)C | C22H30FN3O4S
